US04849414
(1-Amino-2-phenylethyl)phosphinic acid (1 g., 5.4 mmole) is suspended in water (25 ml.) at 0° and the pH is adjusted to 9.5 with concentrated sodium hydroxide solution. Benzyl chloroformate (0.9 ml., 1.08 g., 6.3 mmole) is added while the pH is maintained at 9.5 by the addition of sodium hydroxide. After the pH stabilizes, the mixture is stirred for 3 hours at room temperature. The basic solution is washed with ether and then acidified. The white solid precipitate is collected on a frit to give [2-phenyl-1-[[(phenylmethoxy)carbonyl]amino]ethyl]-phosphinic acid. TLC (silica gel; isopropanol:ammonia:water, 7:2:1) Rf =0.75.

reactant | (1-Amino-2-phenylethyl)phosphinic acid | 5.4 mmole, 1 g | NC(CC1=CC=CC=C1)P(O)=O | C8H12NO2P
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Benzyl chloroformate | 6.3 mmole, 0.9 ml, 1.08 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | water | 25 ml | O | H2O
product | [2-phenyl-1-[[(phenylmethoxy)carbonyl]amino]ethyl]-phosphinic acid | C1(=CC=CC=C1)CC(NC(=O)OCC1=CC=CC=C1)P(O)=O | C16H18NO4P
